US08912180B2
N-[2-(Cyclopentylsulfanyl)ethyl]-4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)-1,3,5-triazin-2-amine (60 mg) was dissolved in methylene chloride (1.2 mL), and m-chloroperbenzoic acid (75% wet) (32 mg) was added thereto at 0° C., followed by stirring for 10 minutes. Water was added thereto, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:80, and subsequently chloroform:methanol=98:2-90:10) to obtain N-[2-(cyclopentyl sulfinyl)ethyl]-4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)-1,3,5-triazin-2-amine (53 mg) as a white powder.

reactant | N-[2-(Cyclopentylsulfanyl)ethyl]-4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)-1,3,5-triazin-2-amine | 60 mg | C1(CCCC1)SCCNC1=NC(=NC(=N1)N1C(=NC2=C1C=CC=C2)C(F)F)N2CCOCC2 | C22H27F2N7OS
reactant | m-chloroperbenzoic acid | 32 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Water | O | H2O
solvent | methylene chloride | 1.2 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(cyclopentyl sulfinyl)ethyl]-4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)-1,3,5-triazin-2-amine | 53 mg | C1(CCCC1)S(=O)CCNC1=NC(=NC(=N1)N1C(=NC2=C1C=CC=C2)C(F)F)N2CCOCC2 | C22H27F2N7O2S
